US03960868
A suspension of 32.7 g of 3 -carboethoxy-4-hydroxy-7-cyclohexyl-quinoline and 7.1 g of sodium hydride (50% strength in mineral oil) in 400 ml of absolute dimethylformamide is stirred for 45 minutes at room temperature with exclusion of water. In the course thereof, the temperature of the reaction mixture rises to 35°C and a homogeneous solution is produced. 39 g of ethyl iodide are added dropwise to this solution over the course of 10 minutes whilst stirring and the mixture is stirred for a further 21/2hours at 55°C. It is then cooled to room temperature and 500 ml of water are added slowly, whilst stirring. The resulting precipitate is filtered off, well washed with water and recrystallised from ethanol-ether. 1-Ethyl-3-carboethoxy-4-oxo-7-cyclohexyl-1,4 -dihydroquinoline, thus obtained, melts at 176°-178°C.

reactant | 3 -carboethoxy-4-hydroxy-7-cyclohexyl-quinoline | 32.7 g | C(=O)(OCC)C=1C=NC2=CC(=CC=C2C1O)C1CCCCC1 | C18H21NO3
reactant | sodium hydride | 7.1 g | [H-].[Na+]
reactant | water | O | H2O
reactant | ethyl iodide | 39 g | C(C)I | C2H5I
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-3-carboethoxy-4-oxo-7-cyclohexyl-1,4 -dihydroquinoline | C(C)N1C=C(C(C2=CC=C(C=C12)C1CCCCC1)=O)C(=O)OCC | C20H25NO3
